US07737166B2
4-Cyano-7-fluoro-N,5-dimethyl-6-phenyl-N-propyl-1,3-benzoxazole-2-carboxamide (I-284)
Under nitrogen atmosphere, trimethylaluminium (1.03 M n-hexane solution) (2.40 ml, 2.47 mmol) was dropwise added at room temperature to a toluene (6 ml) solution of N-methylpropylamine (127 μl, 1.23 mmol), followed by stirring for 40 minutes. Subsequently, a dichloromethane (2 ml) solution of ethyl 4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carboxylate (I-111) (200 mg, 617 μmol) was dropwise added, followed by stirring for 48.5 hours. After the reaction, aqueous 1 N hydrochloric acid solution was added to the reaction liquid with cooling with ice, followed by stirring at room temperature, then the reaction liquid was extracted with chloroform. Next, the combined organic layer was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by middle-pressure liquid chromatography (eluent, n-hexane:ethyl acetate=2:1, v/v) to obtain the entitled compound (120 mg, 55%) as a pale yellow solid.

reactant | trimethylaluminium | 2.47 mmol, 1.03 M, 2.40 ml | C[Al](C)C
reactant | N-methylpropylamine | 1.23 mmol, 127 μl | CNCCC | C4H11N
reactant | ethyl 4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carboxylate | 617 μmol, 200 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)OCC)F)C2=CC=CC=C2)C | C18H13FN2O3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Cyano-7-fluoro-N,5-dimethyl-6-phenyl-N-propyl-1,3-benzoxazole-2-carboxamide | 120 mg, 55% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(CCC)C)F)C2=CC=CC=C2)C | C20H18FN3O2
